US07071201B2
Example 89: Synthesis of 1-[1-(t-butoxycarbonyl)-piperidin-4-yl]-6-hydroxymethylindoline
A 2.5 M solution (16 ml) of n-butyllithium in hexane was added dropwise at ±78° C. into a solution of 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6-bromoindoline (10 g) in tetrahydrofuran (250 ml) over 5 mm. After 10 mm, dimethylformamide (3.0 ml) was added and the resultant mixture was allowed to warm to room temperature. Next, a saturated aqueous solution of ammonium chloride and ethyl acetate were added thereto and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue were added ethanol (50 ml) and sodium borohydride (1.0 g) and the resultant mixture was stirred at room temperature for 30 mm. Then ice water and ethyl acetate were added to the reaction solution and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (7.9 g) (yield: 91%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-[1-(t-butoxycarbonyl)piperidin-4-yl]-6-bromoindoline | 10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC2=CC=C(C=C12)Br | C18H25BrN2O2
reactant | dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(t-butoxycarbonyl)-piperidin-4-yl]-6-hydroxymethylindoline | 7.9 g, yield: 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC2=CC=C(C=C12)CO | C19H28N2O3
